US07838524B2
Step 1: Preparation of 3-(N′-benzhydrylidenehydrazino)-N-(2-methoxy-ethyl)-benzene sulfonamide
The compound was prepared in the same manner as described for 4-(N′-benzhydrylidenehydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide, replacing 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide with 3-bromo-N-(2-methoxyethyl)benzene sulfonamide. 1H-NMR (DMSO-d6) δ 9.32 (s, 1H), 7.67 (t, J=2.1 Hz, 1H), 7.63 to 7.48 (m, 4H), 7.46 to 7.41 (m, 3H), 7.39 to 7.26 (m, 6H), 7.15 to 7.12 (m, 1H), 3.29 (t, 5.7 Hz, 2H), 3.15 (s, 3H), 2.87 (q, J=5.7 Hz, 2H); MS LC-MS [M+H]+=410, RT=3.50 min.

reactant | 4-(N′-benzhydrylidenehydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C26H30N4O3S
reactant | 3-bromo-N-(2-methoxyethyl)benzene sulfonamide | BrC=1C=C(C=CC1)S(=O)(=O)NCCOC | C9H12BrNO3S
product | 3-(N′-benzhydrylidenehydrazino)-N-(2-methoxy-ethyl)-benzene sulfonamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC=1C=C(C=CC1)S(=O)(=O)NCCOC | C22H23N3O3S
